US06541505B1
4-[2-(2-Dimethylamino-ethylamino)-pyrimidin-4-yl]-benzoic acid.
To a solution of 4-[2-chloro-pyrimidin-4-yl]-benzoic acid (234 mg, 1 mmol, reference example 11 g) in DMSO (2 mL) is added 2-(N,N-dimethyl-amino)ethylamine (291 mL, 2 mmol). The resulting solution is heated to 85° C. and stirred at this temperature for 3.5 hours, then cooled and concentrated. The residue is purified by reverese phase HPLC to give 296 mg of the title compound as a TFA salt. 1H NMR (CD3OD) d 2.97 (s, 6H), 3.45 (t, J=6 Hz, 2H), 3.88 (t, J=6 Hz, 2H), 7.31 (d, J=5 Hz, 1H), 8.13 (d, J=8 Hz, 2H), 8.20 (d, J=8 Hz, 2H), 8.44 (d, J=5 Hz, 1H). MS (ion spray) m/z 286 (M+).

reactant | 4-[2-chloro-pyrimidin-4-yl]-benzoic acid | 1 mmol, 234 mg | ClC1=NC=CC(=N1)C1=CC=C(C(=O)O)C=C1 | C11H7ClN2O2
reactant | 2-(N,N-dimethyl-amino)ethylamine | 2 mmol, 291 mL | CN(C)CCN | C4H12N2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-[2-(2-Dimethylamino-ethylamino)-pyrimidin-4-yl]-benzoic acid | 296 mg | CN(CCNC1=NC=CC(=N1)C1=CC=C(C(=O)O)C=C1)C | C15H18N4O2
